US04493843
(RS)-3-(n-Octadecyl)indoline-5-carboxylic acid (2.0 g) in mesitylene (20 ml) was treated with palladium on charcoal (5% w/w, 0.15 g) and the mixture was refluxed for 2 hours. The catalyst was removed by hot filtration and the solvent was evaporated in vacuo to give a solid. The solid was recrystallised from methanol to give 3-(n-octadecyl)indole-5-carboxylic acid (1.10 g) in the form of a buff solid (m.p. 110°-112° C.).

reactant | (RS)-3-(n-Octadecyl)indoline-5-carboxylic acid | 2.0 g | C(CCCCCCCCCCCCCCCCC)C1CNC2=CC=C(C=C12)C(=O)O | C27H45NO2
solvent | mesitylene | 20 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
product | 3-(n-octadecyl)indole-5-carboxylic acid | 1.10 g | C(CCCCCCCCCCCCCCCCC)C1=CNC2=CC=C(C=C12)C(=O)O | C27H43NO2
